datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]CC 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)CCCCCC)[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])[H])C1=CC=CC=C1)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C1=CC=CC=C1)CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O]C([H])C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O]C([H])C([H])[S]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[OH:10]C(CC)C(C)C([H])C(C)[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(C)C([H])C(C)C(CC)[OH+:10]1 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"CC[O:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C([H])=C(C)C([H])[O:10]1>>[O-:10]C([H])/C(C)=C([H])\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[OH:10]C([H])/C([H])=C([H])\C(C)[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C(C)C([H])=C([H])C([H])[OH+:10]1 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O:10]C(C)C([H])[S][C:20]([S]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C([H])C([H])[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S]C([H])C([H])[O]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C([O:21]1)[H])[H])[O-:10])CC>>[H]N([C:20](=[O:10])OC(C([O-:21])[H])[H])CC 10=20;20,21=21"
"[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CCCCCC)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CCCCCC)CCCCCC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([O]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([O]C)[O]C 21=20;20,10=10"
"[H][O:10]C([H])C(C)C([H])[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[O]CC.[Cl-]>>[Cl-].CC[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"[OH:10]C(C1=C(C([CH:20](OCC)=[OH+:21])O)C=CC=C1)[H]>>[OH:21][CH:20]2(OCC)C(C3=C(C([OH+:10]2)[H])C=CC=C3)O 10=20;20,21=21"
"CCN([C:20]([O-:10])(O[H])[O:21]C1=CC=CC=C1)CC>>CCN([C:20](=[O:10])O[H])CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[O:10]([K])C(CCC)C([H])C([C:20](OC)=[O:21])[H]>>[O-:21][C:20]1(OC)[O+:10]([K])C(CCC)C([H])C1[H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C)C)[H])[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])C)C)[H])C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[Cl:21])CCCCCC)C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C.[Cl-:21] 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S]C(C)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
